US09193935B2
6.3: 2-(4-(4-Methoxyphenyl)but-2-en-2-yl)naphthalene
Starting from p-methoxyphenethyltriphenylphosphonium bromide (3.15 g, 6.60 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 4.2 mL, 6.60 mmol, 1.0 equiv.) and 1-(naphthalen-2-yl)ethanone (1.69 g, 9.90 mmol, 1.5 equiv.), 0.92 g (48%) of the title compound as a yellow oil was obtained after purification by flash chromatography on SiO2 (hexanes/EtOAc 995:5→99:1).

reactant | p-methoxyphenethyltriphenylphosphonium bromide | 6.60 mmol, 3.15 g, 1.0 equiv. | [Br-].COC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 6.60 mmol, 1.6 M, 4.2 mL, 1.0 equiv. | [Li]CCCC
reactant | 1-(naphthalen-2-yl)ethanone | 9.90 mmol, 1.69 g, 1.5 equiv. | C1=C(C=CC2=CC=CC=C12)C(C)=O | C12H10O
product | 2-(4-(4-Methoxyphenyl)but-2-en-2-yl)naphthalene | 0.92 g, 48% | COC1=CC=C(C=C1)CC=C(C)C1=CC2=CC=CC=C2C=C1 | C21H20O
